US07582773B2
Step 3: Synthesis of 1,3-Dibenzyl-5-(4-methoxy-phenyl)-2-methyl-1H-indole.
The desired product was prepared using a procedure similar to step 3 of example 3. Thus, 1,3-dibenzyl-5-bromo-2-methyl-1H-indole (1.842 g, 6.133 mmol) was reacted with aqueous 2M K2CO3 (6.1 ml), 4-methoxyphenylboronic acid (1.118 g, 7.360 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.100 g, 0.123 mmol) in dioxane (61 ml) to give the product (0.702 g, 1.681 mmol, 27%) as a pale-yellow solid, mp 136-139° C. 1H NMR (DMSO-d6) δ 2.35 (s, 3H), 3.76 (s, 3H), 4.10 (s, 2H), 5.43 (s, 2H), 6.95-7.00 (m, 4H), 7.09-7.13 (m, 1H), 7.20-7.30 (m, 8H), 7.39 (d, J=8.6 Hz, 1H), 7.48-7.51 (m, 2H), 7.57 (d, J=1.5 Hz, 1H); [ESI(+)], m/z 418 (M+H)+.

reactant | 1,3-dibenzyl-5-bromo-2-methyl-1H-indole | 6.133 mmol, 1.842 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Br)CC1=CC=CC=C1)C | C23H20BrN
reactant | K2CO3 | 2M, 6.1 ml | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methoxyphenylboronic acid | 7.360 mmol, 1.118 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | dichloromethane | 0.123 mmol, 0.100 g | ClCCl | CH2Cl2
solvent | dioxane | 61 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1,3-Dibenzyl-5-(4-methoxy-phenyl)-2-methyl-1H-indole | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OC)CC1=CC=CC=C1)C | C30H27NO
